US05610144
The operation is carried out in a fashion similar to that described in Example 100, but starting from 10.2 g of tert-butyl (2RS,5SR)-1-{2-[3-(3-benzyloxycarbonylphenyl)-ureido]acetyl}-5-phenylprolinate and 1 g of 5% palladium on charcoal in 300 cm3 of ethanol. After treatment, 7.1 g of (2RS,5RS)-3-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid, melting at 236° C., are obtained.

reactant | tert-butyl (2RS,5SR)-1-{2-[3-(3-benzyloxycarbonylphenyl)-ureido]acetyl}-5-phenylprolinate | 10.2 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1)=O | C32H35N3O6
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | ethanol | 300 cm3 | C(C)O | C2H6O
product | (2RS,5RS)-3-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid | 7.1 g | C(C)(C)(C)OC(=O)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C25H29N3O6
